US07579451B2
Step B: 5′-O-(4,4′-Dimethoxitrityl)-2′-O-TBDMS-5-methyluridine
Anhydrous pyridine (9.9 mL) was added to a solution of 5′-O-(4,4′-dimethoxitrityl)-5-methyluridine (6.9 g) and AgNO3 (2.51 g) in dry THF (123 mL) and stirred at room temperature for 20 min under an argon atmosphere. Followed by addition of tert-butyldimethylsilyl chloride (2.51 g) in dry THF (6 mL) and stirred at the same temperature for 2-3 h. The solids were filtered off and the filtrate was concentrated to a crude residue which was applied to a column of silica gel eluted with hexane-ethyl acetate (3:1) to give a pure title compound (7.04 g) as an amorphous solid.

reactant | pyridine | 9.9 mL | N1=CC=CC=C1 | C5H5N
reactant | 5′-O-(4,4′-dimethoxitrityl)-5-methyluridine | 6.9 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)C)O)O)C=C1 | C31H32N2O8
reactant | tert-butyldimethylsilyl chloride | 2.51 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 123 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | AgNO3 | 2.51 g | [N+](=O)([O-])[O-].[Ag+]
product | 5′-O-(4,4′-Dimethoxitrityl)-2′-O-TBDMS-5-methyluridine | 7.04 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)C)O[Si](C)(C)C(C)(C)C)O)C=C1 | C37H46N2O8Si
